US04598078
A mixture of cis-4-cyclohexene-1,2-dicarboxylic anhydride (633 mg; 4.25 mmol), 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine (1 g; 4.25 mmol) and n-butanol (10 ml) was heated under reflux for 6 hours. The solvent was removed under reduced pressure, and the residue was purified by silica gel chromatography to give an oily substance. The oily substance was treated with a mixture of 3% hydrogen chloride in isopropanol, and the precipitate was recrystallized from isopropanol to give N-[4-{4-(2-pyrimidinyl)-1-piperazinyl}butyl]-4-cyclohexene-1,2-dicarboximide hydrochloride. M.P., 177°-179° C.

reactant | cis-4-cyclohexene-1,2-dicarboxylic anhydride | 4.25 mmol, 633 mg | [C@@H]12[C@@H](CC=CC1)C(=O)OC2=O | C8H8O3
reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 4.25 mmol, 1 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | n-butanol | 10 ml | C(CCC)O | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-[4-{4-(2-pyrimidinyl)-1-piperazinyl}butyl]-4-cyclohexene-1,2-dicarboximide hydrochloride | Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(=O)C2C(CC=CC2)C1=O | InChI=1S/C20H27N5O2.ClH/c26-18-16-6-1-2-7-17(16)19(27)25(18)11-4-3-10-23-12-14-24(15-13-23)20-21-8-5-9-22-20;/h1-2,5,8-9,16-17H,3-4,6-7,10-15H2;1H
